US09278915B2
Intermediate 50: Ethyl 4-(4-hydroxyphenyl)-5-methyl-1,2-oxazole-3-carboxylate
To a 25 mL RB flask fitted with a magnetic stirrer was charged with DMF (2.5 mL). To the stirred solvent were added 4-hydroxyphenylboronic acid (0.2 g, 0.7 mmol), ethyl 4-iodo-5-methyl-1,2-oxazole-3-carboxylate (0.116 g, 0.8 mmol), sodium bicarbonate (0.18 g, 2.1 mmol) and water (0.08 mL) under argon atmosphere. After addition, the reaction mixture was purged with argon for 15 minutes. To this bis(triphenylphosphine)palladium (II) chloride (0.05 g, 0.07 mmol) was added and purged with argon for 10 minutes. After addition, the reaction mixture was heated at 95° C. for 5 h under argon atmosphere. After completion of the reaction, the reaction mixture was quenched with water (10 mL) and extracted with ethyl acetate (10 mL). The organic layer was washed with water (5 mL) and brine solution (5 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude was purified through silica gel column chromatography using ethyl acetate and petroleum ether as elutants. The product was obtained as an off white solid (0.1 g, yield: 57%). 1H NMR (300 MHz, CDCl3): δ 7.10-7.13 (d, 2H), 6.80-6.82 (d, 2H), 5.14 (s, 1H), 4.25-4.32 (q, 2H), 2.36 (s, 3H), 1.23-1.28 (t, 3H).

reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | 4-hydroxyphenylboronic acid | 0.7 mmol, 0.2 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | ethyl 4-iodo-5-methyl-1,2-oxazole-3-carboxylate | 0.8 mmol, 0.116 g | IC=1C(=NOC1C)C(=O)OCC | C7H8INO3
reactant | sodium bicarbonate | 2.1 mmol, 0.18 g | C([O-])(O)=O.[Na+]
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.07 mmol, 0.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 0.08 mL | O | H2O
product | Ethyl 4-(4-hydroxyphenyl)-5-methyl-1,2-oxazole-3-carboxylate | 0.1 g, yield: 57% | OC1=CC=C(C=C1)C=1C(=NOC1C)C(=O)OCC | C13H13NO4
